US07632875B2
2-Bromo-2-methyl-propionic acid 4-tert-butoxycarbonylamino-phenyl ester, Pre-Functionalized Initiator 2
To 2-bromo-2-methyl-propionic acid 4-amino-phenyl ester (3.9 g, 15 mmol) dissolved in 40 ml tetrahydrofuran and stirring under nitrogen atmosphere was added triethylamine (1.68 g, 17 mmol). The mixture was cooled in an ice bath and di-tert-butyldicarbonate (3.63 g, 17 mmol) was added as a solid. The reaction was stirred at room temperature for 22 h, at which time 50 ml 1M HCl was added. The mixture was extracted into ethyl acetate (2×100 ml) and the combined extracts washed with 100 ml each water, 5% NaHCO3 and brine and then dried over magnesium sulfate. The crude concentrate was purified by column chromatography (15% ethyl acetate in hexane) followed by recrystallization to give 1.3 g crystals. 1H NMR (CDCl3): 7.40 (d, 2H, J=9.2 Hz), 7.04 (dt, 2H, J=9.1, 2.0 Hz), 6.53 (bs, 1H), 2.06 (s, 6H), 1.52 (s, 9H).

reactant | 2-bromo-2-methyl-propionic acid 4-amino-phenyl ester | 15 mmol, 3.9 g | NC1=CC=C(C=C1)OC(C(C)(C)Br)=O | C10H12BrNO2
reactant | triethylamine | 17 mmol, 1.68 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 17 mmol, 3.63 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1M, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Bromo-2-methyl-propionic acid 4-tert-butoxycarbonylamino-phenyl ester | 1.3 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)OC(C(C)(C)Br)=O | C15H20BrNO4
